US05820849
e) 2-Bromopropionylglycine-benzyl ester
55.9 g (326.1 mmol) of 2-bromopropionic acid chloride is added in drops at 0° C. to 100 g (296.4 mmol) of glycine benzyl ester-p-toluenesulfonic acid salt and 33.0 g (326.1 mmol) of triethylamine in 400 ml of methylene chloride. The temperature is not allowed to exceed 5° C. After addition is completed, it is stirred for one hour at 0° C., then for 2 hours at room temperature. 500 ml of ice water is added, and the water phase is set at pH 2 with 10% aqueous hydrochloric acid. The organic phase is separated, washed once each with 300 ml of 5% aqueous soda solution and 400 ml of water. The organic phase is dried on magnesium sulfate and evaporated to dryness in a vacuum. The residue recrystallizes from diisopropyl ether.

reactant | 2-bromopropionic acid chloride | 326.1 mmol, 55.9 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | glycine benzyl ester-p-toluenesulfonic acid salt | 296.4 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CN)=O
reactant | triethylamine | 326.1 mmol, 33.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Bromopropionylglycine-benzyl ester | C(C1=CC=CC=C1)OC(CNC(C(C)Br)=O)=O | C12H14BrNO3
